* source LAB3
R_R1         N05823 N01164  3.3k TC=0,0 
R_R2         N00508 N00429  3.3k TC=0,0 
R_R3         N00429 N00331  3.3k TC=0,0 
R_R4         0 N05083  3.3k TC=0,0 
R_R5         0 N05152  3.3k TC=0,0 
C_C1         N00429 0  0.1u  TC=0,0 
R_R6         N01164 N00508  6.8k TC=0,0 
R_R8         N00331 N00609  6.8k TC=0,0 
C_C2         N00867 N00609  0.1u  TC=0,0 
R_R9         0 N00867  3.3k TC=0,0 
R_R10         0 N00867  3.3k TC=0,0 
V_V1         N05823 0  AC 100mV
+SIN 0V 100mV 500Hz 0 0 0
R_R11         0 N05083  10 TC=0,0 
R_R12         0 N05152  10 TC=0,0 
